US05508280
5-(2'-CHLOROETHYLIDENE)-5H-DIBENZO[a,d]CYCLOHEPTENE
To a solution of 5-hydroxy-5-vinyl-5H-dibenzo[a,d]cycloheptene (11 g, 48 mmol) in dichloromethane (300 ml) at 0° C. under argon atmosphere is added dropwise thionylchloride (62 mmol, 4.6 ml). The mixture is then stirred for 4 hours at room temperature. Water (100 ml) is added, the organic phase is removed and the aqueous phase is extracted with ether (350 ml). The combined organic phases are washed with water, saturated aqueous sodium bicarbonate and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is taken up in 150 ml of hot isooctane, the insoluble material is removed by decantation and the solution is cooled to room temperature, whereby the expected product crystallizes. The crystalline material is filtered, washed with isooctane and dried: 9 g of the pure title compound is obtained.

reactant | 5-hydroxy-5-vinyl-5H-dibenzo[a,d]cycloheptene | 48 mmol, 11 g | OC1(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)C=C | C17H14O
reactant | thionylchloride | 62 mmol, 4.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Water | 100 ml | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 5-(2'-CHLOROETHYLIDENE)-5H-DIBENZO[a,d]CYCLOHEPTENE | 9 g | ClCC=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C17H13Cl
